US08445509B2
Production of N-[6-(4-amino-3-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide
To a suspension of benzyl [4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-2-fluorophenyl]carbamate (9.7 g, 21.1 mmol) in 1,2-dimethoxyethane (291 mL) was added 0.15 mol/L aqueous barium hydroxide solution (194 mL), and the mixture was stirred at 90° C. for 16 hr. After cooling to room temperature, the reaction mixture was adjusted to about pH 8 with 2N hydrochloric acid, and extracted with ethyl acetate/tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was washed with ethyl acetate and collected by filtration to give the title compound (4.3 g, 63%).

reactant | benzyl [4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-2-fluorophenyl]carbamate | 21.1 mmol, 9.7 g | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=CC(=C(C=C2)NC(OCC2=CC=CC=C2)=O)F)C1 | C25H21FN4O4
reactant | barium hydroxide | 0.15 mol/L, 194 mL | [OH-].[Ba+2].[OH-]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | 1,2-dimethoxyethane | 291 mL | COCCOC | C4H10O2
product | N-[6-(4-amino-3-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 4.3 g, 63% | NC1=C(C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
